US05578607
In a flask is placed 4-chloro-5,8-dimethyl-6-nitroquinoline (1.52 g, 5.4 mmol) with sodium methoxide (2.27 g, 4.2 mmol) and methanol (25 mL). The mixture is refluxed under argon with stirring for 21 hours, diluted with water (100 mL) and methanol (50 mL) and extracted with dichloromethane (2×200 mL). The organic layer is dried over potassium carbonate, filtered and evaporated. The product is purified by flash chromatography (7/3 hexanes/ethyl acetate), yielding 5,8-dimethyl-4-methoxy-6-nitroquinoline.

reactant | 4-chloro-5,8-dimethyl-6-nitroquinoline | 5.4 mmol, 1.52 g | ClC1=CC=NC2=C(C=C(C(=C12)C)[N+](=O)[O-])C | C11H9ClN2O2
reactant | sodium methoxide | 4.2 mmol, 2.27 g | C[O-].[Na+]
solvent | water | 100 mL | O | H2O
solvent | methanol | 50 mL | CO | CH4O
solvent | methanol | 25 mL | CO | CH4O
product | 5,8-dimethyl-4-methoxy-6-nitroquinoline | CC1=C2C(=CC=NC2=C(C=C1[N+](=O)[O-])C)OC | C12H12N2O3
